US05359076
Ethyl 1,2,3,4-tetrahydro-2-phenylquinoline-6-acetate
Using ethyl p-aminophenylacetate and ethyl benzoylacetate as starting materials, treatment was made similarly to Example 1 to obtain aimed product.

reactant | ethyl p-aminophenylacetate | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
reactant | ethyl benzoylacetate | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
product | Ethyl 1,2,3,4-tetrahydro-2-phenylquinoline-6-acetate | C1(=CC=CC=C1)C1NC2=CC=C(C=C2CC1)CC(=O)OCC | C19H21NO2
